US09278950B2
Step 3. 3-Amino-N-{4-[(3R,4S,5S)-3-amino-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-1-yl]pyridin-3-yl}-7-(tetrahydro-2H-pyran-4-yl)quinoline-2-carboxamide
To a solution of benzyl [2-[({4-[(3R,4S,5S)-3-[(tert-butoxycarbonyl)amino]-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-(3,6-dihydro-2H-pyran-4-yl)quinolin-3-yl]carbamate (4.0 mg, 0.005 mmol) in MeOH (0.3 mL) and THF (0.3 mL) 10% Pd on carbon (2 mg) was added. The reaction mixture was deoxygenated under reduced pressure and hydrogen was introduced via a balloon. The reaction mixture was stirred at room temperature under hydrogen for 1 h. The mixture was filtered and concentrated under reduced pressure to give an intermediate. The intermediate was treated with 4.0 M HCl in dioxane (0.053 mL, 0.21 mmol) and stirred at room temperature for 30 min. then concentrated under reduced pressure. The residue was diluted with MeOH and NH4OH, filtered and purified by preparative LCMS (pH=10 method; XBridge™ preparative C18 5 μm OBD™ column, 30×10 mm, 60 mL/min., eluting with a gradient of MeCN and water with 0.1% NH4OH) to give the title compound as a yellow powder (1.8 mg, 65%). LCMS calc. for C28H34N9O2 (M+H)+: m/z=528.3. Found: 528.3.

reactant | benzyl [2-[({4-[(3R,4S,5S)-3-[(tert-butoxycarbonyl)amino]-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-(3,6-dihydro-2H-pyran-4-yl)quinolin-3-yl]carbamate | 0.005 mmol, 4.0 mg | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]([C@@H]1N1N=NC=C1)C)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)C=1CCOCC1 | C41H45N9O6
reactant | THF | 0.3 mL, 2 mg | C1CCOC1 | C4H8O
reactant | HCl | 4.0 M | Cl | ClH
reactant | dioxane | 0.21 mmol, 0.053 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 0.3 mL | CO | CH4O
product | 3-Amino-N-{4-[(3R,4S,5S)-3-amino-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-1-yl]pyridin-3-yl}-7-(tetrahydro-2H-pyran-4-yl)quinoline-2-carboxamide | 1.8 mg, 65% | NC=1C(=NC2=CC(=CC=C2C1)C1CCOCC1)C(=O)NC=1C=NC=CC1N1C[C@H]([C@H]([C@H](C1)C)N1N=NC=C1)N | C28H33N9O2
